US07476741B2
7-Dimethylamino-4-(3,4,5-trimethoxyphenyl)-2H-chromene
To a solution of trimethoxyiodobenzene (159 mg, 0.54 mmol) in THF (2.5 mL) at −78° C. was added n-butyl lithium solution (1.6 M in hexane, 0.34 mL). The reaction mixture was stirred 10 min, then a solution of 7-dimethylamino-chroman-4-one (103 mg, 0.54 mmol) in THF (2.5 mL) was added and stirring continued at −78° C. for 1 h followed by room temperature overnight. The reaction became orange, NH4Cl saturated solution (1 mL) was added and the mixture was diluted with EtOAc (25 mL). The organic layer was washed with water (25 mL), brine (25 mL), dried over magnesium sulfate and concentrated to yield a yellow oil. The residue was dissolved in ethanol (6 mL) and treated with concentrated hydrochloric acid (2 mL). The mixture was heated to reflux for 90 min, allowed to cool, diluted with EtOAc (25 mL) and washed with water (2×25 mL), 10% sodium thiosulfate (25 mL) and water (25 mL). The organic layer was dried over MgSO4 and concentrated to yield a yellow oil. Purification by Biotage flash chromatography using 50% EtOAc/hexane gave a mixture of compounds. Another purification was done using 20% EtOAc/hexane and yielded 30 mg (16%) as a green oil. 1H NMR (CDCl3): 6.97 (d, J=8.5 Hz, 1H), 6.59 (s, 2H), 6.35-6.25 (2m, 2H), 5.61 (s, 1H), 4.82 (d, J=4.0 Hz, 2H), 3.91 (s, 3H), 3.87 (s, 3H), 2.99 (s, 3H).

reactant | trimethoxyiodobenzene | 0.54 mmol, 159 mg | COC1=C(C(=C(C=C1)I)OC)OC | C9H11IO3
reactant | n-butyl lithium | 1.6 M, 0.34 mL | C(CCC)[Li]
reactant | 7-dimethylamino-chroman-4-one | 0.54 mmol, 103 mg | CN(C1=CC=C2C(CCOC2=C1)=O)C | C11H13NO2
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 7-Dimethylamino-4-(3,4,5-trimethoxyphenyl)-2H-chromene | CN(C1=CC=C2C(=CCOC2=C1)C1=CC(=C(C(=C1)OC)OC)OC)C | C20H23NO4
